US06620807B1
Benzo[1,2,5]oxadiazol-5-yl-(5,11-dihydro-benzo[b]pyrido [2.3-e][1,4]Diazepin-6-yl)-methanone
Under a nitrogen atmosphere, an equimolar mixture of benzofurazan-5-carbonyl chloride (0.5 g, 2.75 mmol), 6,1 1-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine (0.54 g, 2.75 mmol) and potassium carbonate in N,N-dimethylformamide (10 mL) was stirred at room temperature for 1.5 hours. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was washed with water and brine, and dried over sodium sulfate. The solution was filtered through a thin pad of silica gel Merck-60, and the filtrate evaporated in vacuo. The residual oil was crystallized from diethyl ether to provide the pure title compound as a yellow solid (0.495 g), m.p. 193-194° C.

reactant | benzofurazan-5-carbonyl chloride | 2.75 mmol, 0.5 g | N1=C2C(=NO1)C=C(C=C2)C(=O)Cl | C7H3ClN2O2
reactant | 6,1 1-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine | 2.75 mmol, 0.54 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Benzo[1,2,5]oxadiazol-5-yl-(5,11-dihydro-benzo[b]pyrido [2.3-e][1,4]Diazepin-6-yl)-methanone | 0.495 g | N1=C2C(=NO1)C=C(C=C2)C(=O)N2C1=C(NC3=C(C2)C=CC=N3)C=CC=C1 | C19H13N5O2
